US08022192B2
N-Hydroxysuccinimide (1.06 g) was dissolved in tetrahydrofuran (10 g) at room temperature. Triethylamine (0.936 g) and ethyl chloroformate (1.00 g) were added to the solution successively. After stirring the reaction mixture at room temperature for 30 minutes, 4-benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (2.00 g) was added to the mixture at room temperature. After the reaction mixture was stirred at room temperature for 13 hours, the reaction mixture was stirred at 50° C. for 6 hours. The insoluble materials were removed, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give 4-benzyl-1-ethoxycarbonyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one.

reactant | N-Hydroxysuccinimide | 1.06 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | Triethylamine | 0.936 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.00 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-benzyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 2.00 g | C(C1=CC=CC=C1)C=1C(NNC1C(C)C)=O | C13H16N2O
solvent | tetrahydrofuran | 10 g | O1CCCC1 | C4H8O
product | 4-benzyl-1-ethoxycarbonyl-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | C(C1=CC=CC=C1)C=1C(NN(C1C(C)C)C(=O)OCC)=O | C16H20N2O3
